US08309580B2
3-{[4-(cyclohexyl{2-methyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}methoxy)benzoyl](methyl)amino}propanoic acid
An operation similar to that in Example 1 (4) was performed using 4-(cyclohexyl{2-methyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}methoxy)benzoic acid (128 mg) as well as ethyl 3-(methylamino)propanoate (45 mg) to give the title compound (134 mg, 88%) as an amorphous compound.

reactant | 4-(cyclohexyl{2-methyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}methoxy)benzoic acid | 128 mg | C1(CCCCC1)C(OC1=CC=C(C(=O)O)C=C1)C1=C(OC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C26H25F3O4
reactant | ethyl 3-(methylamino)propanoate | 45 mg | CNCCC(=O)OCC | C6H13NO2
product | 3-{[4-(cyclohexyl{2-methyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}methoxy)benzoyl](methyl)amino}propanoic acid | 134 mg, 88% | C1(CCCCC1)C(OC1=CC=C(C(=O)N(CCC(=O)O)C)C=C1)C1=C(OC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C30H32F3NO5
